US05532236
b. 1-Benzyloxy-3-hydrazino-6-(1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one
Hydrazine hydrate (2.7 ml, 55 mmol) was added to a solution of 5.9 g (14 mmol) of 1-benzyloxy-3-chloro-6-(1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one in 100 ml of dichloromethane with stirring at 0° C. After 1 h the mixture was evaporated to dryness and the residue was triturated with water and dried to give 5.3 g (90%) of crude title compound.

reactant | Hydrazine hydrate | 55 mmol, 2.7 ml | O.NN
reactant | 1-benzyloxy-3-chloro-6-(1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one | 14 mmol, 5.9 g | C(C1=CC=CC=C1)ON1C(C(=NC2=CC(=C(C=C12)C(F)(F)F)N1C=NC=C1)Cl)=O | C19H12ClF3N4O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Benzyloxy-3-hydrazino-6-(1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one | 5.3 g, 90% | C(C1=CC=CC=C1)ON1C(C(=NC2=CC(=C(C=C12)C(F)(F)F)N1C=NC=C1)NN)=O | C19H15F3N6O2
